US07968552B2
In an atmosphere of nitrogen, potassium tert-butoxide was added under ice-cooling to a mixture of cyclobutanone, ethyl chloroacetate and THF, spending 40 minutes, followed by stirring at 0° C. for 2 hours, raising the temperature to room temperature, and stirring at room temperature for 1 day, thereby obtaining ethyl 1-oxaspiro[2,3]hexane-2-carboxylate. A diethyl ether solution of the resulting ethyl 1-oxaspiro[2,3]hexane-2-carboxylate was added to a THF suspension of lithium aluminum hydride under ice-cooling in an atmosphere of nitrogen, followed by stirring at room temperature for 7 hours to obtain 1-(2-hydroxyethyl)cyclobutanol. A mixture of the resulting 1-(2-hydroxyethyl)cyclobutanol, 4-methylbenzenesulfonyl chloride, triethylamine and THF was stirred at room temperature for 16 hours to obtain 2-(1-hydroxycyclobutyl)ethyl 4-methylbenzenesulfonate.

reactant | 1-(2-hydroxyethyl)cyclobutanol | OCCC1(CCC1)O | C6H12O2
reactant | 4-methylbenzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 2-(1-hydroxycyclobutyl)ethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCC1(CCC1)O | C13H18O4S
